US05569768
L-proline benzyl ester hydrochloride (0.745 mmoles, 180 mg) and diisopropylethyl amine (0.745 mmoles, 0.13 ml) were dissolved in 50 ml DMF. The solution was stirred at room temperature for 20 minutes. 1-Hydroxybenzotriazole (0.745 mmoles, 100 mg), 2-[5-[2-(2H-tetrazol-5-yl)phenyl]benzimidazol-1-yl]octanoic acid (0.745 mmoles, 300 mg) and dicyclohexylcarbodiimide (0.745 mmoles, 153 mg) were added sequentially. The reaction was stirred at room temperature for 12 days and poured into water. Ethyl acetate was added, washed with brine, dried over sodium sulfate, concentrated and purified by chromatography over silica gel eluted with ethyl acetate. The reaction yielded 250 mg of benzyl 1-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazole-1-yl]octyl]-L-proline benzyl ester. (MS)

reactant | L-proline benzyl ester hydrochloride | 0.745 mmoles, 180 mg | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | diisopropylethyl amine | 0.745 mmoles, 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-Hydroxybenzotriazole | 0.745 mmoles, 100 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-[5-[2-(2H-tetrazol-5-yl)phenyl]benzimidazol-1-yl]octanoic acid | 0.745 mmoles, 300 mg | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | dicyclohexylcarbodiimide | 0.745 mmoles, 153 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzyl 1-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazole-1-yl]octyl]-L-proline benzyl ester | 250 mg | C(C1=CC=CC=C1)OC([C@]1(N(CCC1)C(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)=O)CC2=CC=CC=C2)=O | C41H43N7O3
